US07981918B2
(R)-3-(2,6-Dichloro-4-hydroxy-benzyl)-1-(4,5,6,7-tetrahydro-1H-indazol-4-yl)-pyrrolidin-2-one
To a solution of (R)-3-(4-benzyloxy-2,6-dichloro-benzyl)-1-(4,5,6,7-tetrahydro-1H-indazol-4-yl)-pyrrolidin-2-one (1.32 g) in ethanol (50 mL), add palladium hydroxide on carbon (10%, 0.65 g). Stir the mixture under hydrogenation (50 psi) at room temperature for 3 hours. Filter the mixture through celite. Remove the solvent in vacuo to afford 0.93 g of the title compound. MS (m/z): 380 (M+).

reactant | (R)-3-(4-benzyloxy-2,6-dichloro-benzyl)-1-(4,5,6,7-tetrahydro-1H-indazol-4-yl)-pyrrolidin-2-one | 1.32 g | C(C1=CC=CC=C1)OC1=CC(=C(C[C@H]2C(N(CC2)C2C=3C=NNC3CCC2)=O)C(=C1)Cl)Cl | C25H25Cl2N3O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 0.65 g | [OH-].[OH-].[Pd+2]
product | (R)-3-(2,6-Dichloro-4-hydroxy-benzyl)-1-(4,5,6,7-tetrahydro-1H-indazol-4-yl)-pyrrolidin-2-one | 0.93 g | ClC1=C(C[C@H]2C(N(CC2)C2C=3C=NNC3CCC2)=O)C(=CC(=C1)O)Cl | C18H19Cl2N3O2
